US06403586B1
Preparation of 2-(4-chlorocinnamyl)-6-(4-methoxy-phenyl)-4-propionylamino-2H-pyridazin-3-one
4-Amino-2-(4-chlorocinnamyl)-6-(4-methoxyphenyl)-2H-pyridazin-3-one and propionic anhydride were processed as in Example 113, whereby the title compound was obtained in a yield of 84.6%.

reactant | 4-Amino-2-(4-chlorocinnamyl)-6-(4-methoxyphenyl)-2H-pyridazin-3-one | NC=1C(N(N=C(C1)C1=CC=C(C=C1)OC)CC=CC1=CC=C(C=C1)Cl)=O | C20H18ClN3O2
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
product | 2-(4-chlorocinnamyl)-6-(4-methoxy-phenyl)-4-propionylamino-2H-pyridazin-3-one | yield of 84.6% | ClC1=CC=C(C=CCN2N=C(C=C(C2=O)NC(CC)=O)C2=CC=C(C=C2)OC)C=C1 | C23H22ClN3O3
